US04931444
A mixture of 17.5 parts of 2,4-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]-phenyl]-3H-1,2,4-triazol-3-one prepared as described in example XVII of U.S. Pat. No. 4,267,179, 19.5 parts of 2,2,2-trifluoroethyl 2-naphthalenesulfonate, 10.0 parts of potassium carbonate and 135 parts of N,N-dimethylformamide was stirred overnight at 145° C. After cooling, water was added. The crystallized product was filtered off under pressure and dissolved in dichloromethane. The organic layer was dried, filtered and evaporated in vacuo. The residue was purified by column chromatography over silica gel using trichloromethane as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-butanone. The product was filtered off and dried, yielding 9.2 parts (42.4%) of 2,4-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-(2,2,2-trifluoroethyl)-3H-1,2,4-triazol-3-one; mp. 208.0° C. (int. 37).

reactant | 2,4-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]-phenyl]-3H-1,2,4-triazol-3-one | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(NN=C1)=O | C19H21N5O2
reactant | 2,2,2-trifluoroethyl 2-naphthalenesulfonate | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)OCC(F)(F)F | C12H9F3O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2,4-dihydro-4-[4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl]-2-(2,2,2-trifluoroethyl)-3H-1,2,4-triazol-3-one | 42.4% | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)CC(F)(F)F)=O | C21H22F3N5O2
